US04399294
5. N-[2-[[5-[(Dimethylamino)methyl]-2-furanylmethyl]thio]ethyl]-N'-methyl-2-nitro-1,1-ethenediamine
To a solution of N-[2-[[5-(1,3-dioxolan-2-yl)-2-furanylmethyl]thio]ethyl]-N'-methyl-2-nitro-1,1-ethenediamine (2.21 g) and dimethylamine hydrochloride (20 g) in water (5 ml) was added 2 N hydrochloric acid (5 ml). After 10 min, dimethylamine (33% in ethanol) (2 ml) was added, the solution cooled to 18° and sodium borohydride (1 g) added portionwise. The suspension was acidified with acetic acid (2.5 ml) and after 15 mins was heated at 60° for 15 mins. The suspension was evaporated to low bulk and an excess of anhydrous sodium carbonate and tetrahydrofuran (100 ml) added. The suspension was refluxed for 2 hours and after 2 hours at room temperature was filtered and the filtrate evaporated in vacuo. The oily residue was chromatographed (silica/methanol) and the appropriate eluate evaporated in vacuo to give the title compound (0.45 g) which was crystallised from methyl isobutyl ketone, m.p. 64°-67° .

reactant | N-[2-[[5-(1,3-dioxolan-2-yl)-2-furanylmethyl]thio]ethyl]-N'-methyl-2-nitro-1,1-ethenediamine | 2.21 g | O1C(OCC1)C1=CC=C(O1)CSCCNC(=C[N+](=O)[O-])NC | C13H19N3O5S
reactant | dimethylamine hydrochloride | 20 g | Cl.CNC
reactant | hydrochloric acid | 2 N, 5 ml | Cl | ClH
reactant | dimethylamine | 2 ml | CNC | C2H7N
reactant | sodium borohydride | 1 g | [BH4-].[Na+]
solvent | water | 5 ml | O | H2O
solvent | acetic acid | 2.5 ml | C(C)(=O)O | C2H4O2
product | N-[2-[[5-[(Dimethylamino)methyl]-2-furanylmethyl]thio]ethyl]-N'-methyl-2-nitro-1,1-ethenediamine | 0.45 g | CN(C)CC1=CC=C(O1)CSCCNC(=C[N+](=O)[O-])NC | C13H22N4O3S
